US09120749B2
tert-Butyl trans-4-[6-(3-chloro-5-fluoro-4-hydroxyphenyl)-3-(cyclopropanecarbonyl)quinolin-4-ylamino]cyclohexyl(methyl)carbamate
Following general procedure F, tert-butyl {trans-4-[6-bromo-3-(cyclopropanecarbonyl)quinolin-4-ylamino]cyclohexyl}(methyl)carbamate (63 mg, 0.125 mmol) was reacted with 2-chloro-6-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol (51 mg, 0.188 mmol) to afford the crude product (75 mg) as a yellow-green solid: ESI MS m/z 568 [C31H35ClFN3O4+H]+.

reactant | tert-butyl {trans-4-[6-bromo-3-(cyclopropanecarbonyl)quinolin-4-ylamino]cyclohexyl}(methyl)carbamate | 0.125 mmol, 63 mg | BrC=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)N[C@@H]1CC[C@H](CC1)N(C(OC(C)(C)C)=O)C | C25H32BrN3O3
reactant | 2-chloro-6-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol | 0.188 mmol, 51 mg | ClC1=C(C(=CC(=C1)B1OC(C(O1)(C)C)(C)C)F)O | C12H15BClFO3
product | tert-Butyl trans-4-[6-(3-chloro-5-fluoro-4-hydroxyphenyl)-3-(cyclopropanecarbonyl)quinolin-4-ylamino]cyclohexyl(methyl)carbamate | 75 mg | ClC=1C=C(C=C(C1O)F)C=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)N[C@@H]1CC[C@H](CC1)N(C(OC(C)(C)C)=O)C | C31H35ClFN3O4
